US04113871
By the reaction of ethyl 7-[4-(2-aminoethyl)-phenyl]-heptane-carboxylate hydrochloride with 4-chlorobenzoyl chloride, there is obtained 7-{4-[2-(4-chlorobenzamido)-ethyl]-phenyl}-heptane-carboxylic acid; m.p. 145°-148° C., after recrystallization from diethyl ether.

reactant | ethyl 7-[4-(2-aminoethyl)-phenyl]-heptane-carboxylate hydrochloride | Cl.NCCC1=CC=C(C=C1)CCCCCCCC(=O)OCC
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 7-{4-[2-(4-chlorobenzamido)-ethyl]-phenyl}-heptane-carboxylic acid | ClC1=CC=C(C(=O)NCCC2=CC=C(C=C2)CCCCCCCC(=O)O)C=C1 | C23H28ClNO3
